US06153641
3-(1-Methyl-indol-3-yl)-4-(indol-3-yl)-furan-2,5-dione (2.21 g, 0.61 mmol) and sodium hydrid (55-60% dispersion in oil, 0.031 g, 0.76 mmol) were dissolved in dry dimethylformamide and stirred for 20 minutes at ambient temperature before adding acetic acid 4-bromomethyl-2-(2-(trimethylsilyl)ethoxymethoxy)benzyl ester (0.25 g, 0.64 mmol). The reaction was allowed to proceed for 20 hours before adding ethyl acetate (20 mL), water (5 mL) and saturated aqueous ammonium chloride (5 mL). The phases were separated and the aqueous phase extracted with ethyl acetate (20 mL). The combined organic phases were washed with water (2×20 mL), and dried over Na2SO4. Removal of the solvent furnished crude 3-[1-(4-acetoxymethyl-3-(2-(trimethylsilyl)ethoxymethoxy)benzyl)-indol-3-yl]-4-(1-methyl-indol-3-yl)furan-2,5-dione which was dissolved in dimethylformamide (3 mL) and ammonium hydroxide (9 mL). Heating to 75° C. in a sealed tube for four hours gave, after extraction with ethyl acetate and chromatography (ethyl acetate/heptane:60/40), 98 mg of the sub-title compound as a red solid.

reactant | 3-(1-Methyl-indol-3-yl)-4-(indol-3-yl)-furan-2,5-dione | 0.61 mmol, 2.21 g | CN1C=C(C2=CC=CC=C12)C=1C(OC(C1C1=CNC2=CC=CC=C12)=O)=O | C21H14N2O3
reactant | sodium hydrid | 0.76 mmol, 0.031 g | [H-].[Na+]
reactant | acetic acid 4-bromomethyl-2-(2-(trimethylsilyl)ethoxymethoxy)benzyl ester | 0.64 mmol, 0.25 g | BrCC1=CC(=C(COC(C)=O)C=C1)OCOCC[Si](C)(C)C | C16H25BrO4Si
reactant | ammonium chloride | 5 mL | [Cl-].[NH4+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | 5 mL | O | H2O
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 3-[1-(4-acetoxymethyl-3-(2-(trimethylsilyl)ethoxymethoxy)benzyl)-indol-3-yl]-4-(1-methyl-indol-3-yl)furan-2,5-dione | C(C)(=O)OCC1=C(C=C(CN2C=C(C3=CC=CC=C23)C=2C(OC(C2C2=CN(C3=CC=CC=C23)C)=O)=O)C=C1)OCOCC[Si](C)(C)C | C37H38N2O7Si
